US09238639B2
N-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl)-2-hydroxy-3-methylbutanamide
To a mixture of 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanamine (33.8 mg) and DMF (dry) (5 mL) were added 2-hydroxy-3-methylbutanoic acid (17.72 mg), EDCI (31.0 mg) and HOBt (27.0 mg). The mixture was stirred at room temperature overnight. The mixture was poured into saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (26.0 mg).

reactant | 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanamine | 33.8 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCN)C=C2)C=CC(=C1)Cl | C17H17Cl2NO2
reactant | 2-hydroxy-3-methylbutanoic acid | 17.72 mg | OC(C(=O)O)C(C)C | C5H10O3
reactant | EDCI | 31.0 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 27.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl)-2-hydroxy-3-methylbutanamide | 26.0 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCNC(C(C(C)C)O)=O)C=C2)C=CC(=C1)Cl | C22H25Cl2NO4
